US08563732B2
Hydrogen chloride in 1,4-dioxane (4 M, 7.0 ml) was added to the solution of tert-butyl 4-(1,3-dioxoisoindolin-2-yloxy)piperidine-1-carboxylate (692 mg, 2.00 mmol) in 1,4-dioxane (4 ml) and stirred for 1 hour. The precipitated material was collected, washed with n-hexane (2 ml×2) and dried under reduced pressure at 80° C. to give 2-(piperidin-4-yloxy)isoindoline-1,3-dione hydrochloride (533 mg, 94%).

reactant | Hydrogen chloride | Cl | ClH
reactant | tert-butyl 4-(1,3-dioxoisoindolin-2-yloxy)piperidine-1-carboxylate | 2.00 mmol, 692 mg | O=C1N(C(C2=CC=CC=C12)=O)OC1CCN(CC1)C(=O)OC(C)(C)C | C18H22N2O5
solvent | 1,4-dioxane | 4 M, 7.0 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | 2-(piperidin-4-yloxy)isoindoline-1,3-dione hydrochloride | 533 mg, 94% | Cl.N1CCC(CC1)ON1C(C2=CC=CC=C2C1=O)=O | InChI=1S/C13H14N2O3.ClH/c16-12-10-3-1-2-4-11(10)13(17)15(12)18-9-5-7-14-8-6-9;/h1-4,9,14H,5-8H2;1H
